US05622982
b) 2-Bromoacetyl-5-chloropyridine hydrobromide
To a solution of 10 g of 2-acetyl-5-chloropyridine in 150 ml of 48% aqueous hydrobromic acid are added 4 ml of bromine dissolved in 40 ml of hydrobromic acid, with stirring, drop by drop, at 80°. The mixture is stirred for additionally 3 hours at 80°. Afterwards the solution is evaporated in vacuo. The residue is triturated with acetone, filtered by suction, washed with acetone and dried in vacuo to yield yellow crystals of the compound, which is used for the next step without purification.

reactant | 2-acetyl-5-chloropyridine | 10 g | C(C)(=O)C1=NC=C(C=C1)Cl | C7H6ClNO
reactant | bromine | 4 ml | BrBr | Br2
solvent | hydrobromic acid | 150 ml | Br | BrH
solvent | hydrobromic acid | 40 ml | Br | BrH
product | 2-Bromoacetyl-5-chloropyridine hydrobromide | Br.BrCC(=O)C1=NC=C(C=C1)Cl | InChI=1S/C7H5BrClNO.BrH/c8-3-7(11)6-2-1-5(9)4-10-6;/h1-2,4H,3H2;1H
